US07601850B2
D. 5-{1-[4-(3,3-Dimethyl-2-oxo-butoxy)-3-methyl-phenyl]-1-ethyl-propyl}-3-methyl-thiophene-2-sulfonic acid dimethylaminemethyleneamide
To a solution of 5-[1-ethyl-1-(4-hydroxy-3-methyl-phenyl)-propyl]-3-methyl-thiophene-2-sulfonic acid dimethylaminemethyleneamide (5.1 g, 12.48 mmol) in 2-butanone (50 ml) is added potassium carbonate (2.59 g, 18.72 mmol), and chloropinacolone (3.28 ml, 24.91 mmol). The reaction is refluxed overnight, filtered, and concentrated. The residue is partitioned between EtOAc (400 ml) and 0.2N HCl (100 ml). The organic layer is washed with brine (100 ml), MgSO4 dried, concentrated, and chromatographed (120 g SiO2, 50% EtOAc/Hex) to yield the title compound (6.11 g, 97%).

reactant | 5-[1-ethyl-1-(4-hydroxy-3-methyl-phenyl)-propyl]-3-methyl-thiophene-2-sulfonic acid | 12.48 mmol, 5.1 g | C(C)C(CC)(C1=CC(=C(C=C1)O)C)C1=CC(=C(S1)S(=O)(=O)O)C | C17H22O4S2
reactant | potassium carbonate | 18.72 mmol, 2.59 g | C([O-])([O-])=O.[K+].[K+]
reactant | chloropinacolone | 24.91 mmol, 3.28 ml | ClCC(C(C)(C)C)=O | C6H11ClO
solvent | 2-butanone | 50 ml | CC(CC)=O | C4H8O
product | 5-{1-[4-(3,3-Dimethyl-2-oxo-butoxy)-3-methyl-phenyl]-1-ethyl-propyl}-3-methyl-thiophene-2-sulfonic acid | 6.11 g, 97% | CC(C(COC1=C(C=C(C=C1)C(CC)(CC)C1=CC(=C(S1)S(=O)(=O)O)C)C)=O)(C)C | C23H32O5S2
